US07547691B2
2-[5-Chloro-2-(2-piperazin-1-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride
Using the method of [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride, the title compound is synthesized from 2-(2,5-dichloro-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide and 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid (80% yield). ES+(m/z) 457 (35Cl) and 459 (37Cl) [M(free base)+H].

reactant | [4-(benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methylpiperazin-1-yl)-propyl]-amine tri-hydrochloride | Cl.Cl.Cl.S1C2=C(C=C1C1=NC(=NC=C1)NCCCN1CCN(CC1)C)C=CC=C2
reactant | 2-(2,5-dichloro-pyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid cyclopropylamide | C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C16H11Cl2N3OS
reactant | 4-(2-amino-ethyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
product | 2-[5-Chloro-2-(2-piperazin-1-ylethylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCN2CCNCC2 | InChI=1S/C22H25ClN6OS.3ClH/c23-17-13-26-22(25-8-11-29-9-6-24-7-10-29)28-20(17)19-12-16-15(2-1-3-18(16)31-19)21(30)27-14-4-5-14;;;/h1-3,12-14,24H,4-11H2,(H,27,30)(H,25,26,28);3*1H
